US09107916B2
B. 2-[5-[[4-chloro-2-[2-(4-fluorophenyl)ethyl]phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and [4-chloro-2-[2-(4-fluorophenyl)ethyl]phenyl]methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 2.86-2.95 (4H, m), 5.03 (2H, s), 5.70 (1H, d, J=2.0 Hz), 6.91-7.01 (4H, m), 7.21-7.24 (2H, m), 7.33-7.36 (2H, m), 7.58 (1H, d, J=1.6 Hz), 7.96 (1H, s), 8.57 (1H, dd, J=0.8 Hz, 5.2 Hz). [M+H] Calc'd for C24H18ClFN4O, 433. Found, 433.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | [4-chloro-2-[2-(4-fluorophenyl)ethyl]phenyl]methanol | ClC1=CC(=C(C=C1)CO)CCC1=CC=C(C=C1)F | C15H14ClFO
product | 2-[5-[[4-chloro-2-[2-(4-fluorophenyl)ethyl]phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC1=CC(=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N)CCC1=CC=C(C=C1)F | C24H18ClFN4O
